US08048878B2
Synthesis of methyl 3-hydroxymethyl-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate
Lithium borohydride (187 mg) was added to a solution of 5-(3,4,5-trifluorophenyl)piperazine-1,3-dicarboxylic acid 3-ethyl ester 1-methyl ester (991 mg) in THF (20 mL), and the reaction solution was stirred at room temperature for two hours. A saturated ammonium chloride solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 867 mg of a crude product of the title compound. The property value of the compound is as follows.

reactant | Lithium borohydride | 187 mg | [BH4-].[Li+]
reactant | 5-(3,4,5-trifluorophenyl)piperazine-1,3-dicarboxylic acid 3-ethyl ester 1-methyl ester | 991 mg | COC(=O)N1CC(NC(C1)C1=CC(=C(C(=C1)F)F)F)C(=O)OCC | C15H17F3N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 3-hydroxymethyl-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate | 867 mg | OCC1CN(CC(N1)C1=CC(=C(C(=C1)F)F)F)C(=O)OC | C13H15F3N2O3
